US05116404
6.0 g of ethyl a-fluorobenzoylacetate and 7.0 g of ammonium acetate were added to 50 ml of ethanol, followed by dropwise addition of 6.0 g of acetic acid to this solution with stirring at room temperature. The mixed solution was further stirred under reflux for 4 hours and added to a cooled aqueous solution of sodium hydrogencarbonte. This aqueous mixture was extracted with 200 ml of diethyl ether, and the organic layer was washed with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then the solvent was distilled away under reduced pressure to obtain 5.5 g of ethyl 2-fluoro-3-amino-3-phenyl-2-propenoate.

reactant | ethyl a-fluorobenzoylacetate | 6.0 g | FC(C(=O)OCC)C(C1=CC=CC=C1)=O | C11H11FO3
reactant | ammonium acetate | 7.0 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium | [Na] | Na
solvent | acetic acid | 6.0 g | C(C)(=O)O | C2H4O2
product | ethyl 2-fluoro-3-amino-3-phenyl-2-propenoate | 5.5 g | FC(C(=O)OCC)=C(C1=CC=CC=C1)N | C11H12FNO2
